US04072696
2.94 G. of 1-acetamido-4-hydroxy-2-nitrobenzene, 4.0 g. n-butyl bromide, and 4.2 g. of anhydrous potassium carbonate in 100 ml. of acetone are refluxed overnight with stirring. The mixture is evaporated, diluted with water and extracted with ether to afford 1-acetamido-4-n-butoxy-2-nitrobenzene. This latter compound is treated in accordance with the second paragraph of Example XXXI to afford 1-amino-4-n-butoxy-2-nitrobenzene. This latter compound is treated in accordance with the first paragraph of Example VI to afford 4-n-butoxy-1-(3-methoxycarbonyl-2-thioureido)-2-nitrobenzene. This latter compound is treated in accordance with the iron reduction technique set forth in the third paragraph of Example XIX to afford 2-amino-4-n-butoxy-1-(3-methoxycarbonyl-2-thioureido)benzene. This latter compound is treated in accordance with the first paragraph of Example XVII to afford 4-n-butoxy-1-(3-methoxycarbonyl-2-thioureido)-2-succinamidobenzene.

reactant | 1-acetamido-4-hydroxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C8H8N2O4
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-acetamido-4-n-butoxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)OCCCC)[N+](=O)[O-] | C12H16N2O4
